US07649002B2
Methyl (3S,4R)-4-(4-chlorophenyl)pyrrolidine-3-carboxylate hydrochloride
To a solution of methyl (3S,4R)-1-benzyl-4-(4-chlorophenyl)pyrrolidine-3-carboxylate, from preparation 25 (0.93 g, 2.8 mmol) in dichloromethane (9 mL) cooled with an ice-bath was added 1-chloroethyl chloroformate (0.46 mL). The reaction mixture was allowed to warm to room temperature and stirred for 48 hours. The reaction mixture was then cooled to 0° C. and triethylamine (0.43 mL, 3.1 mmol) was added followed by additional 1-chloroethylchloroformate (0.31 mL, 2.8 mmol). The ice-bath was removed and the reaction mixture was stirred at room temperature for 1.5 hours before being diluted with dichloromethane, washed with water (20 mL), 5% aqueous citric acid (20 mL) and then dried over magnesium sulfate and filtered. The solvent was removed in vacuo and the residual oil was refluxed in methanol (20 mL) for 1 hour. The solvent was then removed in vacuo and the residue was triturated with diethyl ether and filtered to give the desired product as a white solid, 0.874 g.

reactant | methyl (3S,4R)-1-benzyl-4-(4-chlorophenyl)pyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC=C(C=C1)Cl)C(=O)OC | C19H20ClNO2
reactant | 1-chloroethyl chloroformate | 0.46 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | triethylamine | 3.1 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | 1-chloroethylchloroformate | 2.8 mmol, 0.31 mL | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | Methyl (3S,4R)-4-(4-chlorophenyl)pyrrolidine-3-carboxylate hydrochloride | Cl.ClC1=CC=C(C=C1)[C@H]1[C@@H](CNC1)C(=O)OC | InChI=1S/C12H14ClNO2.ClH/c1-16-12(15)11-7-14-6-10(11)8-2-4-9(13)5-3-8;/h2-5,10-11,14H,6-7H2,1H3;1H/t10-,11+;/m0./s1
